US09233985B2
A slurry of the crude 5,7-dichloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid in water (15 mL) was cooled in an ice bath, adjusted to pH ˜8.5 with 50% aqueous NaOH, diluted with 1,4-dioxane (10 mL) and treated with a solution of di-tert-butyldicarbonate (530 mg, 2.43 mmol) in 1,4-dioxane (8 mL) quickly dropwise. The heterogeneous mixture was stirred at 0° C. for 10 min and then at room temperature overnight, giving a thick white mixture. HPLC indicated remaining starting material, so the reaction was treated with 2 N aqueous NaOH (0.48 mL, 0.96 mmol) and additional di-tert-butyldicarbonate (204 mg, 0.935 mmol). After stirring for 4 h, the mixture was diluted with water (25 mL) and washed with Et2O (2×25 mL). The aqueous phase was adjusted to pH˜3 with 1 M aqueous citric acid and extracted with ethyl acetate (2×40 mL). The combined organic phase (Et2O/ethyl acetate) was washed with saturated aqueous sodium chloride (10 mL), dried over MgSO4 and concentrated. Purification by silica gel chromatography (40 g column, 15-45% ethyl acetate in hexanes) gave 2-(tert-butoxycarbonyl)-5,7-dichloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (265 mg, 41%) as a white, partially crystalline solid. 1H NMR (DMSO-d6, 400 MHz) δ 12.9 (s, 1 H), 7.51 (m, 1 H), 7.41 (m, 1 H), 4.98 (m, ˜0.5 H), 4.80 (m, ˜0.5 H), 4.50 (m, 2 H), 3.29 (m, 1 H), 2.98 (m, 1 H), 1.46 (s, ˜4.5 H), 1.41 (s, ˜4.5 H) (mixture of rotamers). LC-MS gives ESI− MS found for C15H17Cl2NO4 m/z 344.1 (M−H).

reactant | 5,7-dichloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | ClC1=C2CC(NCC2=CC(=C1)Cl)C(=O)O | C10H9Cl2NO2
reactant | NaOH | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 2.43 mmol, 530 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 0.96 mmol, 2 N, 0.48 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 0.935 mmol, 204 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | 2-(tert-butoxycarbonyl)-5,7-dichloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 265 mg, 41% | C(C)(C)(C)OC(=O)N1CC2=CC(=CC(=C2CC1C(=O)O)Cl)Cl | C15H17Cl2NO4
